US07595319B2
3-Amino-6-[4-[[[(1S)-2-methoxy-1-methylethyl]amino]carbonyl]phenyl]-N-3-pyridinyl-2-pyrazinecarboxamide Hydrochloride
Triethylamine (0.12 mL, 0.89 mmol) was added to a mixture of 4-{5-amino-6-[(pyridin-3-ylamino)carbonyl]pyrazin-2-yl}benzoic acid (100 mg, 0.30 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (0.105 g, 0.33 mmol) and 1-hydroxybenzotriazole (44 mg, 0.33 mmol) in methylene chloride/methanol (9:1, 10 mL) at room temperature. (S)-(+)-1-methoxy-2-propylamine was added dropwise and the resulting mixture was stirred at room temperature for 1.5 h. The mixture was evaporated onto silica and purified by chromatography on silica using toluene/acetonitrile, (2:1 to 0:1) as the eluent. The formed yellow solid was dissolved in methylene chloride. Hydrochloride acid in diethyl ether (0.4 mL, 1 M) was added and the mixture was stirred at room temperature. The precipitated product was filtrated off and dried in vacuo at 40° C. giving 39 mg (29% yield) of the product as a yellow solid. 1H NMR (DMSO-d6) δ 9.38 (m, 1H), 9.08 (s, 1H), 8.85 (d, J=9 Hz, 1H), 8.67 (d, J=5 Hz, 1H), 8.36 (d, J=8 Hz, 2H), 8.32 (d, J=8 Hz, 2H), 8.03 (m, J=6 Hz, 1H), 7.99 (d, J=8 Hz, 2H), 7.80 (br s, 1H), 4.23 (m, 1H), 3.45 (m, 1H), 3.32 (m, 1H), 3.29 (s, 3H), 1.17 (d, J=7 Hz, 3H); 13C NMR (D2O) δ 165.8, 165.5, 154.9, 146.3, 138.2, 138.1, 137.5, 135.6, 134.3, 128.0, 126.9, 125.6, 123.0, 75.3, 58.4, 44.8, 17.6; MS (ESP) m/z 407 (M++1).

reactant | Triethylamine | 0.89 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 4-{5-amino-6-[(pyridin-3-ylamino)carbonyl]pyrazin-2-yl}benzoic acid | 0.30 mmol, 100 mg | NC=1N=CC(=NC1C(=O)NC=1C=NC=CC1)C1=CC=C(C(=O)O)C=C1 | C17H13N5O3
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.33 mmol, 0.105 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole | 0.33 mmol, 44 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-(+)-1-methoxy-2-propylamine | COC[C@H](C)N | C4H11NO
reactant | methylene chloride methanol | 10 mL | C(Cl)Cl.CO
product | 3-Amino-6-[4-[[[(1S)-2-methoxy-1-methylethyl]amino]carbonyl]phenyl]-N-3-pyridinyl-2-pyrazinecarboxamide Hydrochloride | 39 mg, 29% yield | Cl.NC=1C(=NC(=CN1)C1=CC=C(C=C1)C(=O)N[C@H](COC)C)C(=O)NC=1C=NC=CC1 | InChI=1S/C21H22N6O3.ClH/c1-13(12-30-2)25-20(28)15-7-5-14(6-8-15)17-11-24-19(22)18(27-17)21(29)26-16-4-3-9-23-10-16;/h3-11,13H,12H2,1-2H3,(H2,22,24)(H,25,28)(H,26,29);1H/t13-;/m0./s1
